US06313341B1
(−)-methyl(11R, 15S, 13E)-11-tert-butyldimethylsilyloxy-15-hydroxy-9-oxoprost-13-en-1-oate (481 mg, 1.0 mmol) was dissolved in 5 ml of a mixed solvent (ethyl acetate/water/tetrahydrofuran 6:3:1) and stirred at 40° C. for 2 h. The reaction mixture was poured into a saturated aqueous sodium carbonate cooled with ice and extracted with ethyl acetate (100 ml) two times. The combined organic layer was washed with a saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and concentrated in vacuo to remove solvent. The residue was purified by silica gel column chromatography [ethyl acetate/hexane (2/1)] to give 312 mg (85% yield) of prostaglandin E1 methyl ester;

reactant | (−)-methyl(11R, 15S, 13E)-11-tert-butyldimethylsilyloxy-15-hydroxy-9-oxoprost-13-en-1-oate | 1.0 mmol, 481 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC([C@H](CCCCCCC(=O)OC)[C@H]1\C=C\[C@H](CCCCC)O)=O | C27H50O5Si
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | (−)-methyl(11R, 15S, 13E)-11, 15-dihydroxy-9-oxoprost-13-en1-oate | 312 mg, 85% yield | O[C@@H]1CC([C@H](CCCCCCC(=O)OC)[C@H]1\C=C\[C@H](CCCCC)O)=O | C21H36O5
